US06441023B1
2-(4-Methoxy-phenylsulfanyl)-2,5-dimethyl-hexenoic acid was prepared starting from 2-(4-methoxy-phenylsulfanyl)-2,5-dimethyl-hex-4-enoic acid ethyl ester (2.0 g, 6.4 mmol) dissolved in methanol (50 ml) and 10 N NaOH (20 ml). The resulting reaction mixture was worked up as outlined in Example 1. Yield is 1.9 g, 99% of low melting solid. MS: 280 (M+H)+.

reactant | 2-(4-methoxy-phenylsulfanyl)-2,5-dimethyl-hex-4-enoic acid ethyl ester | 6.4 mmol, 2.0 g | C(C)OC(C(CC=C(C)C)(C)SC1=CC=C(C=C1)OC)=O | C17H24O3S
solvent | methanol | 50 ml | CO | CH4O
solvent | NaOH | 10 N, 20 ml | [OH-].[Na+]
product | 2-(4-Methoxy-phenylsulfanyl)-2,5-dimethyl-hexenoic acid | COC1=CC=C(C=C1)SC(C(=O)O)(C=CC(C)C)C | C15H20O3S
